US08084649B2
A solution of 70% 3-chloroperoxybenzoic acid (0.104 g, 0.42 mmol) in dichloromethane (2 ml) is added dropwise to a solution of 2-(2,6-diethyl-4-methylphenyl)-5-[2-(ethylthio)propyl]cyclo-hexane-1,3-dione (0.17 g, 0.47 mmol) in dichloromethane (3 ml) at 0° C. and the reaction mixture is stirred for 1 hour at 0° C. and then left to stand at room temperature overnight. The reaction mixture is diluted with dichloromethane, washed with 15% aqueous sodium metabisulfite solution and brine, dried over anhydrous magnesium sulfate, filtered and the filtrate evaporated in vacuo. The residue is purified by column chromatography on silica gel to give 2-(2,6-diethyl-4-methylphenyl)-5-[2-(ethylsulfinyl)propyl]cyclohexane-1,3-dione, m.p. 58-61° C.

reactant | 3-chloroperoxybenzoic acid | 0.42 mmol, 0.104 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 2-(2,6-diethyl-4-methylphenyl)-5-[2-(ethylthio)propyl]cyclo-hexane-1,3-dione | 0.47 mmol, 0.17 g | C(C)C1=C(C(=CC(=C1)C)CC)C1C(CC(CC1=O)CC(C)SCC)=O | C22H32O2S
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 2-(2,6-diethyl-4-methylphenyl)-5-[2-(ethylsulfinyl)propyl]cyclohexane-1,3-dione | C(C)C1=C(C(=CC(=C1)C)CC)C1C(CC(CC1=O)CC(C)S(=O)CC)=O | C22H32O3S
